US07569578B2
(R)-Methyl 3-(4-amino-3,5-dimethylphenyl)-2-(benzyloxycarbonyl)propanoate
(Z)-Methyl 3-(4-amino-3,5-dimethylphenyl)-2-(benzyloxycarbonyl)acrylate (84.5 g, 239 mmol) was weighed into a flame-dried 2 L Parr shaker, followed by the addition of methylene chloride (300 mL) and methanol (300 mL). The bottle was swirled to form a light brown suspension, and this suspension was degassed by a flow of nitrogen for 30 min. Following addition of (−)-1,2-bis((2R,5R)-2,5-diethylphospholano)bezene(cyclooctadiene)rhodium(I)tetrafluoroborate ([(2R,5R)-Et-DuPhosRh]BF4) (2.11 g, 3.20 mmol), the bottle was put onto a Parr Hydrogenator. After 5 cycles of purging with hydrogen (60 psi) and vacuum, the final hydrogen pressure was set at 65 psi and the suspension was agitated at room temperature for 16 h (after 3 h, the suspension became a clear solution), and the reaction was complete. Solvents were removed and the residue was subjected to flash chromatography on silica gel using ethyl acetate/methylene chloride (1:9) as the eluent to afford the title compound as a very light tan solid (82.9 g, 98% yield). 1H-NMR (DMSO-d6) δ 7.70 (d, J=7.9 Hz, 1H), 7.37-7.28 (m, 5H), 6.68 (s, 2H), 5.00 (s, 2H), 4.41 (s, 2H), 4.15-4.10 (m, 1H), 3.62 (s, 3H), 2.82 (dd, J=13.7, 5.2 Hz, 1H), 2.65 (dd, J=13.4, 9.8 Hz, 1H), 2.04 (s, 6H); 3C-NMR (DMSO-d6) δ 172.5, 155.9, 142.6, 136.9, 128.3, 128.2, 127.7, 127.5, 124.0, 120.4, 65.3, 56.1, 51.7, 35.9, 17.7.

reactant | (Z)-Methyl 3-(4-amino-3,5-dimethylphenyl)-2-(benzyloxycarbonyl)acrylate | 239 mmol, 84.5 g | NC1=C(C=C(C=C1C)\C=C(\C(=O)OC)/C(=O)OCC1=CC=CC=C1)C | C20H21NO4
reactant | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
catalyst | (−)-1,2-bis((2R,5R)-2,5-diethylphospholano)bezene(cyclooctadiene)rhodium(I)tetrafluoroborate | 3.20 mmol, 2.11 g | [B-](F)(F)(F)F.CC[C@@H]1CC[C@H](P1C2=CC=CC=C2P3[C@@H](CC[C@H]3CC)CC)CC.C1C[CH][CH]CC[CH][CH]1.[Rh]
solvent | methanol | 300 mL | CO | CH4O
product | (R)-Methyl 3-(4-amino-3,5-dimethylphenyl)-2-(benzyloxycarbonyl)propanoate | NC1=C(C=C(C=C1C)C[C@H](C(=O)OC)C(=O)OCC1=CC=CC=C1)C | C20H23NO4
